US08119627B2
1,3-Dichloro-5-(2-nitro-phenoxy)-benzene HVB01025 C12H7Cl2NO3, MW 284.1
A mixture of 2-fluoro-1-nitrobenzene (0.7 ml, 6.47 mmol), 3,5-dichloro-phenol (1.56 g, 9.8 mmol) and potassium carbonate (1.35 g, 9.78 mmol) in dimethylformamide (4 ml) was refluxed with stirring for 3 h. After removal of dimethylformamide, the residue was dissolved in ether (20 ml), and washed with sodium hydroxide (5%, 3×20 ml). The organic layers were combined, dried (MgSO4), filtered and evaporated in-vacuo. The product was obtained as a light yellow solid, 0.57 g, 33%. m.p. 78-80° C.; 1H NMR (270 MHz, CDCl3) δ 6.88 (2H, d, J=1.7 Hz, ArHE, ArHG), 7.12 (1H, t, J=1.7 Hz, ArHF), 7.12 (1H, dd, J=1.2, 8.2 Hz, ArHD), 7.32 (1H, td, J=7.4, 1.2 Hz, ArHB), 7.6 (1H, td, J=7.4, 1.7 Hz, ArHC), 8.0 (1H, dd, J=8.2, 1.7 Hz, ArHA).

reactant | 2-fluoro-1-nitrobenzene | 6.47 mmol, 0.7 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3,5-dichloro-phenol | 9.8 mmol, 1.56 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 9.78 mmol, 1.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1,3-Dichloro-5-(2-nitro-phenoxy)-benzene | ClC1=CC(=CC(=C1)OC1=C(C=CC=C1)[N+](=O)[O-])Cl | C12H7Cl2NO3
